US09422271B2
A mixture of 5-bromo-N-tert-butylthiophene-2-sulfonamide (1.614 g, 5.41 mmol, 1.0 equiv.), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.65 g, 6.49 mmol, 1.2 eq), Pd(dppf)Cl2 (0.442 g, 0.541 mmol, 0.1 eq), CH3COOK (2.124 g, 21.64 mmol, 4.0 eq) in 1,4-dioxane (30 ml) was stirred at 100° C. under a nitrogen atmosphere for 3 h. The reaction mixture was allowed to cool to room temperature and concentrated to give a residue. The residue was purified by silica gel chromatography (PE/EA 300:1 to 40:1 as eluent) to afford N-tert-butyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide (1.3 g, 69.6%) as solid.

reactant | 5-bromo-N-tert-butylthiophene-2-sulfonamide | 5.41 mmol, 1.614 g, 1.0 equiv. | BrC1=CC=C(S1)S(=O)(=O)NC(C)(C)C | C8H12BrNO2S2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 6.49 mmol, 1.65 g, 1.2 eq | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | CH3COOK | 21.64 mmol, 2.124 g, 4.0 eq | CC(=O)O[K]
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.541 mmol, 0.442 g, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-tert-butyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thiophene-2-sulfonamide | 1.3 g, 69.6% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)B1OC(C(O1)(C)C)(C)C | C14H24BNO4S2
